US07834019B2
1) Production of [5-nitro-2-(4-ethylpiperazin-1-yl)phenyl]methanol
4.24 g of potassium carbonate was added to N-methylpyrrolidone (4.24 mL) solution of 4.24 g of 2-fluoro-5-nitrobenzyl alcohol and 4.24 g of N-ethylpiperazine, and stirred at 140° C. for 14 hours. Water was added to the reaction liquid, and extracted with ethyl acetate. The organic layer was washed with water and saturated saline water in that order, then dried with anhydrous magnesium sulfate, and the solvent was evaporated away under reduced pressure. The crude product was purified through silica gel column chromatography (hexane/ethyl acetate) to obtain the entitled compound as a yellow solid.

reactant | potassium carbonate | 4.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 4.24 mL | CN1C(CCC1)=O | C5H9NO
reactant | 2-fluoro-5-nitrobenzyl alcohol | 4.24 g | FC1=C(CO)C=C(C=C1)[N+](=O)[O-] | C7H6FNO3
reactant | N-ethylpiperazine | 4.24 g | C(C)N1CCNCC1 | C6H14N2
solvent | Water | O | H2O
product | [5-nitro-2-(4-ethylpiperazin-1-yl)phenyl]methanol | [N+](=O)([O-])C=1C=CC(=C(C1)CO)N1CCN(CC1)CC | C13H19N3O3
